* Z:\mnt\DATA\Cursussen\Publish\Books\CSstage\SLiCAP\cir\N18noise.asc
XU1 N001 0 out NM18_noise ID={ID} IG=0 W={W} L={L}
V1 N001 0 V value=0 dc=0 dcvar=0 noise=0
.param W=220n L={W} ID=1u
.include C18.lib
.lib SLiCAP.lib
.backanno
.end
